US07402581B2
A mixture of methyl 3-fluoro-5,6,7,8-tetrahydronaphthalene-1-carboxylate (37 mg, 0.18 mmol), LiOH (27 mg, 1.1 mmol), water (2 mL) and THF (1 mL) was stirred at room temperature overnight and then partitioned between ether and water. The aqueous layer was extracted thrice with ether and then repeatedly with ethyl acetate. The combined organic solutions were dried over MgSO4 and the solvent was removed by evaporation. There was obtained 15 mg (43%) of 3-fluoro-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid as a white solid. 1H NMR (500 MHz, CD3CO CD3): 1.8 (m, 4H), 2.8 (m, 2H), 3.1 (m, 2H), 7.0 (m, 1H), 7.6 (m, 1H).

reactant | methyl 3-fluoro-5,6,7,8-tetrahydronaphthalene-1-carboxylate | 0.18 mmol, 37 mg | FC=1C=C(C=2CCCCC2C1)C(=O)OC | C12H13FO2
reactant | LiOH | 1.1 mmol, 27 mg | [Li+].[OH-]
reactant | water | 2 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-fluoro-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid | 15 mg, 43% | FC=1C=C(C=2CCCCC2C1)C(=O)O | C11H11FO2
